US08859777B2
Step 2: Preparation of Methyl 2-Benzyl-3-[4-(4-Chlorophenyl)-4-fluoropiperidin-1-yl]propionate Hydrochloride.
A solution of methyl 3-[4-(4-chlorophenyl)-4-fluoropiperidin-1-yl]propionate (75 mg, 0.23 mmol) in toluene (5 mL) was placed under a dry nitrogen atmosphere and cooled in a dry ice acetone bath. A 1M solution of lithium hexamethyldisilazide (0.28 mL, 0.28 mmol) was then added drop-wise over 10 minutes. The resulting bright yellow solution was stirred for 1 hour then benzyl bromide (43 mg, 0.25 mmol) added in one portion. The reaction was then allowed to warm to room temperature with stirring over a 16 hour period then quenched by the addition of 25% aqueous ammonium chloride solution (10 mL). The resulting mixture was extracted with ethyl acetate (2×10 mL) and the combined extracts dried over magnesium sulfate, filtered and stripped to a viscous yellow oil. This oil was treated with 10% methanolic hydrogen chloride (5 mL) and the solution re-concentrated. The resulting oil was triturated with 1:1 ethyl acetate/heptanes (10 mL) to afford a light yellow solid which was collected by filtration. After drying under vacuum for 12 hours methyl 2-benzyl-3-[4-(4-chlorophenyl)-4-fluoropiperidin-1-yl]propionate hydrochloride was obtained as a light yellow solid in 44% yield.

reactant | methyl 3-[4-(4-chlorophenyl)-4-fluoropiperidin-1-yl]propionate | 0.23 mmol, 75 mg | ClC1=CC=C(C=C1)C1(CCN(CC1)CCC(=O)OC)F | C15H19ClFNO2
reactant | lithium hexamethyldisilazide | 0.28 mmol, 0.28 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | benzyl bromide | 0.25 mmol, 43 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl 2-Benzyl-3-[4-(4-Chlorophenyl)-4-fluoropiperidin-1-yl]propionate Hydrochloride | 44% yield | Cl.C(C1=CC=CC=C1)C(C(=O)OC)CN1CCC(CC1)(F)C1=CC=C(C=C1)Cl | InChI=1S/C22H25ClFNO2.ClH/c1-27-21(26)18(15-17-5-3-2-4-6-17)16-25-13-11-22(24,12-14-25)19-7-9-20(23)10-8-19;/h2-10,18H,11-16H2,1H3;1H
